US09290441B2
These reactions were also studied with unsymmetrical esters. The reaction of ethyl butyrate with 3-pentanol in the presence of 1 mol % of 1 under refluxing toluene led to 75% conversion of ethyl butyrate with the formation of 73% of 3-pentyl butyrate as the exclusive product (entry 16). Traces of 3-pentyl acetate, resulting from reaction with the formed ethanol, were also observed. The remaining ethanol probably evaporated from the reaction mixture under the reflux conditions. Similarly, the reaction of methyl hexanoate with cyclohexanol results in 42% conversion after 17 h with the formation of 42% of cyclohexyl hexanoate (entry 17).

reactant | ethyl butyrate | C(CCC)(=O)OCC | C6H12O2
reactant | 3-pentanol | CCC(CC)O | C5H12O
reactant | 3-pentyl butyrate | C(CCC)(=O)OC(CC)CC | C9H18O2
solvent | ethanol | C(C)O | C2H6O
product | 3-pentyl acetate | C(C)(=O)OC(CC)CC | C7H14O2
